US03931232
1-Acetoxy-3-(1,2-dimethylheptyl)-5,6,7,8-tetrahydro-9-methylxanthene is refluxed with potassium carbonate in 100 ml. of 15% aqueous methanol for 15 minutes. The reaction mixture is diluted with cold water and extracted with hexane. The organic phase is washed with water, dried (Na2SO4) and concentrated in vacuo to give a residue which, upon distillation, gives 3-(1,2-dimethylheptyl)-5,6,7,8,-tetrahydro-1-hydroxy-9-methylxanthene.

reactant | 1-Acetoxy-3-(1,2-dimethylheptyl)-5,6,7,8-tetrahydro-9-methylxanthene | C(C)(=O)OC1=CC(=CC=2OC=3CCCCC3C(C12)C)C(C(CCCCC)C)C | C25H36O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 3-(1,2-dimethylheptyl)-5,6,7,8,-tetrahydro-1-hydroxy-9-methylxanthene | CC(C(CCCCC)C)C=1C=C(C=2C(C=3CCCCC3OC2C1)C)O | C23H34O2
